US07294627B2
1-t-Butoxycarbonyl-4-{[(6-chloropyridazin-3-yl)(methyl)-amino]methyl}piperidine
From 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine and 3,6-dichloropyridazine.

reactant | 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 1-t-Butoxycarbonyl-4-{[(6-chloropyridazin-3-yl)(methyl)-amino]methyl}piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C)C=1N=NC(=CC1)Cl | C16H25ClN4O2
